US08629160B2
A mixture of 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetic acid (I34) (351 mg, 1.18 mmol), (R)-quinuclidin-3-ol (180 mg, 1.42 mmol), DCC (292 mg, 1.42 mmol), and HOBT (217 mg, 1.42 mmol) in dry THF (20 ml) was stirred at room temperature overnight. The solvent was evaporated, and the crude product was portioned between EtOAc and 2M K2CO3. The organic phase was washed with 2M K2CO3 and brine, dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (MeCN/MeOH=8/2+0.2% NH4OH) to obtain (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetate (224 mg, 46.7% yield).

reactant | 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetic acid | 1.18 mmol, 351 mg | S1C2=C(C(=C1)C(C(=O)O)N(C1=CC=CC=C1)C)C=CC=C2 | C17H15NO2S
reactant | (R)-quinuclidin-3-ol | 1.42 mmol, 180 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | DCC | 1.42 mmol, 292 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 1.42 mmol, 217 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(methyl(phenyl)amino)acetate | 224 mg, 46.7% yield | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)N(C3=CC=CC=C3)C)C=CC=C2 | C24H26N2O2S
